### PR TITLE
[Merged by Bors] - feat: `Icc a b - Icc c d = Icc (a - d) (b - c)`

### PR DESCRIPTION
**Pull request by emlis42**
This PR adds `Set.Icc_div_Icc` and `Set.Icc_sub_Icc` as companions to `Set.Icc_mul_Icc` and `Set.Icc_add_Icc`

### CODE REVIEW

File: Mathlib/Algebra/Order/Group/Pointwise/Interval.lean [hunk 1]
```diff
@@ -469,6 +469,11 @@ variable [CommGroup α] [LinearOrder α] [IsOrderedMonoid α]
 lemma inv_uIcc (a b : α) : [[a, b]]⁻¹ = [[a⁻¹, b⁻¹]] := by
   simp only [uIcc, inv_Icc, inv_sup, inv_inf]
 
+@[to_additive]
+lemma Icc_div_Icc {a b c d : α} (hab : a ≤ b) (hcd : c ≤ d) :
+    Icc a b / Icc c d = Icc (a / d) (b / c) := by
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Group/Pointwise/Interval.lean:474]: can you also add
```lean
@[to_additive]
lemma Icc_div_Icc_subset {α : Type*} [CommGroup α] [PartialOrder α]
    [IsOrderedMonoid α] (a b c d : α) :
    Icc a b / Icc c d ⊆ Icc (a / d) (b / c) := by
  simp only [div_eq_mul_inv, inv_Icc, Icc_mul_Icc_subset']
```
Not sure if you should call it `Icc_div_Icc_subset'` (to match `Icc_mul_Icc_subset'`) or without the prime. Not sure why there even is a prime...

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge

File: Mathlib/Algebra/Order/Group/Pointwise/Interval.lean (hunk 1 above)
Comment (emlis42) [reply Mathlib/Algebra/Order/Group/Pointwise/Interval.lean:478]: I added `Icc_div_Icc_subset'` in`section OrderedCommGroup`. The prime follows the TODO around line 43: the unprimed name is reserved for the version with nonnegativity assumptions, thanks!

Comment (themathqueen) [reply Mathlib/Algebra/Order/Group/Pointwise/Interval.lean:478]: Ah, nice, thanks for checking that!

File: Mathlib/Algebra/Order/Group/Pointwise/Interval.lean [hunk 2]
```diff
@@ -175,6 +175,10 @@ lemma inv_Ioc (a b : α) : (Ioc a b)⁻¹ = Ico b⁻¹ a⁻¹ := by
 @[to_additive (attr := simp)]
 lemma inv_Ioo (a b : α) : (Ioo a b)⁻¹ = Ioo b⁻¹ a⁻¹ := by simp [← Ioi_inter_Iio, inter_comm]
 
+@[to_additive Icc_sub_Icc_subset]
+lemma Icc_div_Icc_subset' (a b c d : α) : Icc a b / Icc c d ⊆ Icc (a / d) (b / c) := by
```
Comment (j-loreaux) [inline Mathlib/Algebra/Order/Group/Pointwise/Interval.lean:179]: I don't understand why the name is primed like this?
```suggestion
@[to_additive]
lemma Icc_div_Icc_subset (a b c d : α) : Icc a b / Icc c d ⊆ Icc (a / d) (b / c) := by
```

**Review by j-loreaux — COMMENTED** [review]
bors d+

File: Mathlib/Algebra/Order/Group/Pointwise/Interval.lean (hunk 2 above)
Comment (themathqueen) [reply Mathlib/Algebra/Order/Group/Pointwise/Interval.lean:179]: I asked the same question, apparently they're reserved for nonnegative assumptions? (https://github.com/leanprover-community/mathlib4/pull/43304#discussion_r4017695798)

Comment (wwylele) [reply Mathlib/Algebra/Order/Group/Pointwise/Interval.lean:179]: Not blocking this PR, but I wonder if the entire convention should be switched to `Icc_div_Icc_subset` for (ordered) `Group` / `MulLeftMono` vs `Icc_div_Icc_subset₀` for (ordered) `GroupWithZero` / `PosMulMono`...
